US06277877B1
5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-amide
Racemic3-pyrrolidinol (2.0 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3phenyl-propionic acid (1 mmol) were coupled according to procedure A (0-25° C. reaction temperature, washing first with acid then base), and the product purified by column chromatography on silica gel eluted with 0.5-16% ethanol in dichloromethane to give a colorless foam: Yield 260 mg, 63%; HPLC (60/40) 100%, 3.86 minutes; PBMS 412/414 (MH+, 100%);

reactant | Racemic3-pyrrolidinol | 2.0 mmol | N1CC(CC1)O | C4H9NO
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3phenyl-propionic acid | 1 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
product | 5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)C(C(=O)N1CC(CC1)O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C22H22ClN3O3
